US09029366B2
A 1 M solution of lithium aluminum hydride in THF (0.77 mL, 0.77 mmol) was added dropwise to a stirred solution of 2-(benzyloxy)-6,7-dihydropyrazolo[1,5-a]pyrazin-4(5H)-one (0.16 g, 0.65 mmol) in THF (4 mL) under nitrogen at 0° C. The mixture was stirred at room temperature for 4 hours and diluted with AcOEt. Na2SO4.10H2O was added at 0° C. and the mixture was stirred for 20 minutes at this temperature, filtered through a pad of diatomaceous earth and then washed with additional AcOEt. The filtrate was evaporated in vacuo to yield 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.14 g, 97% yield) as a yellow oil, that was used in the next step without further purification.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(benzyloxy)-6,7-dihydropyrazolo[1,5-a]pyrazin-4(5H)-one | 0.65 mmol, 0.16 g | C(C1=CC=CC=C1)OC1=NN2C(C(NCC2)=O)=C1 | C13H13N3O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 0.77 mmol, 0.77 mL | C1CCOC1 | C4H8O
product | 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 0.14 g, 97% yield | C(C1=CC=CC=C1)OC1=NN2C(CNCC2)=C1 | C13H15N3O
